US04634705
1-Cyano-5,6-dimethoxy-(3,4-dihydronaphthalene)
5,6-dimethoxytetralone (20 g) was dissolved in benzene (20 ml) and trimethylsilyl cyanide (16 ml). A catalytic amount of aluminum chloride was added and the reaction heated at 70° C. under nitrogen for 30 minutes. The volatiles were removed in vacuo and methanol (20 ml) added. Gaseous hydrochloric acid was bubbled through the methanol solution for 30 minutes resulting in precipitation of a solid. Stirring was continued for 1 hour, then the mixture was filtered and dried affording 19.9 g. of product (96% yield); m.p. 138°-9° C.

reactant | 5,6-dimethoxytetralone | 20 g | COC1=C2CCCC(C2=CC=C1OC)=O | C12H14O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trimethylsilyl cyanide | 16 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-Cyano-5,6-dimethoxy-(3,4-dihydronaphthalene) | 96% yield | C(#N)COC1=C2CCC=CC2=CC=C1OC | C13H13NO2
